US05606071
4.56 g (40 mmol) of 3-methyl-hydantoin, 30 ml of acetic acid, and 2.0 ml (40 mmol) of bromine were mixed at room temperature. The reaction mixture was then vigorously stirred at a temperature of 40° C. for 2 hours. The reaction mixture was then allowed to cool to room temperature. To the reaction mixture was then added 5.7 g (60 mmol) of phenol. The reaction mixture was then allowed to undergo reaction at a temperature of 100° C. for 6 hours. The resulting precipitate was recovered by filtration, washed with water, and then dried to obtain 4.20 g (yield: 51%) of 5-(p-hydroxyphenyl)-3-methyl-hydantoin.

reactant | 3-methyl-hydantoin | 40 mmol, 4.56 g | CN1C(NCC1=O)=O | C4H6N2O2
reactant | bromine | 40 mmol, 2.0 ml | BrBr | Br2
reactant | phenol | 60 mmol, 5.7 g | C1(=CC=CC=C1)O | C6H6O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-(p-hydroxyphenyl)-3-methyl-hydantoin | 4.20 g, yield: 51% | OC1=CC=C(C=C1)C1C(N(C(N1)=O)C)=O | C10H10N2O3
